US09371320B2
D) 4-(1-tert-butyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide
To a solution of 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide (500 mg) in acetonitrile (30 mL) were added sodium iodide (567 mg) and chloro(trimethyl)silane (1.92 mL), and the mixture was stirred at 50° C. for 1 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/methanol) to give the title compound (475 mg).

reactant | 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 500 mg | C(C)(C)(C)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)N | C16H18N4O2S
reactant | sodium iodide | 567 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 1.92 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-(1-tert-butyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 475 mg | C(C)(C)(C)N1N=C(C=2C(NC=CC21)=O)C=2C=C(SC2)C(=O)N | C15H16N4O2S
